### ISSUE TITLE
Failed to generate equality theorems

### ISSUE THREAD

**Issue by rami3l** [leanprover/lean4#2237]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

Pasted from [Zulip](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/failed.20to.20generate.20equality.20theorems/near/361322155):

```lean
inductive Ty where
| star: Ty
notation " ✶ " => Ty.star

abbrev Context : Type := List Ty

inductive Lookup : Context → Ty → Type where
| z : Lookup (t :: Γ) t

inductive Term : Context → Ty → Type where
| var : Lookup Γ a → Term Γ a
| lam : Term (✶ :: Γ) ✶ → Term Γ ✶
| ap : Term Γ ✶ → Term Γ ✶ → Term Γ ✶

abbrev plus : Term Γ a → Term Γ a
| .var i => .var i
| .lam n => .lam (plus n)
| .ap (.lam _) m => plus m -- This case takes precedence over the next one.
| .ap l m => (plus l).ap (plus m)

example : plus (.ap l m) = (plus l).ap (plus m) := by
  unfold plus
  ^^ failed to generate equality theorems for `match` expression `plus.match_1`
```

**Expected behavior:** The `plus` definition gets unfolded. IIRC since it's recursive, it should be unfolded only once.

**Actual behavior:**  The last line generates an error message (`failed to generate equality theorems`), as seen above.

**Reproduces how often:** 100%

### Versions

`lean-toolchain`: `leanprover/lean4:nightly-2023-05-16`
OS: macOS Ventura 13.4 22F66 arm64

**Comment by nomeata** [comment]
Still the case with Lean 4.18.0-nightly-2025-02-11.

**Comment by nomeata** [comment]
The error message is similar to #9846, so when fixing one of the two, check the other!

**Comment by nomeata** [comment]
Ah, there is a simple workaround in this case: Explicitly include the index in the pattern matching:
```
def plus (t : Term Γ a) : Term Γ a := match a, t with
| _, .var i => .var i
| _, .lam n => .lam (plus n)
| _, .ap (.lam _) m => plus m -- This case takes precedence over the next one.
| _, .ap l m => (plus l).ap (plus m)
```
